US06979719B1
Preparation of 4-ethyl-1-(ethoxycarbonylmethyl)-2,6,7-trioxabicyclo [2.2.2]octane (BOE 1)
Into a 4 l three necked flask equipped with a stirrer, a distilling column, a nitrogen in- and outlet, a heating jacket, a thermocouple, and a vacuum pump were charged 1920 g of diethyl malonate (12 moles), 464 g of 3-ethyl-3-hydroxymethyl oxetane (4 moles), and 2,5 g of dibutyl tin oxide. The reaction mixture was heated to 140° C. upon which temperature the ethanol distillation began. The reaction temperature was gradually increased to 200° C. during 6 hours. During this time 171 g of ethanol were collected as distillate. The temperature was lowered to 100° C. and the pressure was lowered to 29 mbar by application of vacuum. The excess diethylmalonate was distilled off. The pressure was further lowered to 0.03 mbar and the temperature was gradually increased to 156° C. Three fractions of distillate were collected. The third fraction (100–104° C./0.03 mbar) consisted of 379 g, which according to GC analysis contained 75% of 4-ethyl-1-(ethoxycarbonylmethyl)-2,6,7-trioxabicyclo[2.2.2]octane having the following structure

reactant | nitrogen in | C[C@@H]1CC[C@@]2([C@H]([C@H]3[C@@H](O2)C[C@@H]4[C@@]3(CC[C@H]5[C@H]4CC=C6[C@@]5(CC[C@@H](C6)O)C)C)C)OC1 | C27H42O3
reactant | diethyl malonate | 12 moles, 1920 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-ethyl-3-hydroxymethyl oxetane | 4 moles, 464 g | C(C)C1(COC1)CO | C6H12O2
reactant | dibutyl tin oxide | 2,5 g | C(CCC)[Sn](CCCC)=O
product | 4-ethyl-1-(ethoxycarbonylmethyl)-2,6,7-trioxabicyclo [2.2.2]octane | C(C)C12COC(OC1)(OC2)CC(=O)OCC | C11H18O5
